US08445509B2
Production of N-[6-(2-fluoro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide
To a solution of N-(6-hydroxyimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide (30 g, 138 mmol) and 1,2-difluoro-4-nitrobenzene (24.2 g, 152 mmol) in dimethyl sulfoxide (180 mL) was added cesium carbonate (58.5 g, 180 mmol), and the mixture was stirred at room temperature for 5 hr under an argon atmosphere. Water (1080 mL) was added to the reaction mixture, and the mixture was stirred for 20 min. The precipitate was collected by filtration and washed with water and ethyl acetate. After air drying for one day, the mixture was dried under reduced pressure at 100° C. for 5 hr to give the title compound (46.5 g, 95%) as a yellow solid.

reactant | N-(6-hydroxyimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide | 138 mmol, 30 g | OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2 | C11H11N3O2
reactant | 1,2-difluoro-4-nitrobenzene | 152 mmol, 24.2 g | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | cesium carbonate | 180 mmol, 58.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | 1080 mL | O | H2O
solvent | dimethyl sulfoxide | 180 mL | CS(=O)C | C2H6OS
product | N-[6-(2-fluoro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 46.5 g, 95% | FC1=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC(=C1)[N+](=O)[O-] | C17H13FN4O4
